US07732448B2
Into 2 ml of acetonitrile were added 0.20 g of 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine, 0.54 g of potassium carbonate and 0.30 g of 3,3,5,5-tetramethylpiperidine hydrochloride, and the mixture was stirred for 4 hours at 70° C. The reaction mixture was cooled to near room temperature, a saturated ammonium chloride aqueous solution was added therein, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.22 g of 4-(2-butynyloxy)-5-fluoro-6-(3,3,5,5-tetramethylpiperidino)pyrimidine (hereinafter, referred to as Compound (39)).

reactant | 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine | 0.20 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | potassium carbonate | 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,3,5,5-tetramethylpiperidine hydrochloride | 0.30 g | Cl.CC1(CNCC(C1)(C)C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-(2-butynyloxy)-5-fluoro-6-(3,3,5,5-tetramethylpiperidino)pyrimidine | 0.22 g | C(C#CC)OC1=NC=NC(=C1F)N1CC(CC(C1)(C)C)(C)C | C17H24FN3O
